US07544702B2
2,4-Dichloro-N-{5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide (68)
Prepared from 2-amino-5-bromopyridine and 4-(N-piperidinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichlorophenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 11.95 (1H, br s, NH), 8.55 (1H, s, Ar CH ortho to 2×Cl), 8.29 (1H, d, CH ortho to SO2NH), 7.85, 7.61, 7.54 & 7.39 (4×1H, d, s, d & d, J 11, 10 & 11 Hz, A- & B-ring CH's) 7.73 & 7.30 (2×2H, 2×d, 2×J 10 Hz, Ar CH's of C-ring), 3.10-3.01 (4H, m, CH2NCH2), 2.18 (3H, s, CH3), 1.79-1.68 (4H, m, CH2CH2CH2CH2CH2), 1.60-1.48 (2H, m, CH2CH2CH2CH2CH2). Hplc (Luna 2, Gradient 5): rt=6.48 minutes. LC/MS rt=7.19 minutes, 558/560 (MH+).

reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-(N-piperidinylsulfonyl)thiophenol | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C11H15NO2S2
reactant | 2,4-dichlorophenylsulfonyl chloride | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,4-Dichloro-N-{5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC1=NC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C22H21Cl2N3O4S3
